US08211907B2
To a solution of (4aRS,9bRS)-4a-methyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine (140 mg) in 1,2-dichloroethane (3 ml) were added acetic acid (0.214 ml) and sodium triacetoxyborohydride (1.1 g), followed by heating and stirring at 70° C. for 3 hours. The reaction solution was basified by adding a 1 M aqueous sodium hydroxide solution, extracted with chloroform, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain (4aRS,9bRS)-1-ethyl-4a-methyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine (105 mg) as an oily substance. This was made into a hydrochloride by a conventional method, washed with ethyl acetate, and collected by filtration to obtain (4aRS,9bRS)-1-ethyl-4a-methyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine hydrochloride (108 mg) as a colorless powder.

reactant | (4aRS,9bRS)-4a-methyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine | 140 mg | CC12C(NCCC1)C1=CC=CC=C1C2 | C13H17N
reactant | acetic acid | 0.214 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
product | (4aRS,9bRS)-1-ethyl-4a-methyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine | 105 mg | C(C)N1C2C(CCC1)(CC1=CC=CC=C12)C | C15H21N
